US07741320B2
Step A: 4,5-dichloro-2-fluorobenzenesulphonamide
In a 500 mL round-bottom flask, a portion of glacial acetic acid (30 mL) is saturated for 30 minutes with a current of gaseous sulphur dioxide. To the resulting solution there is added a solution of cupric chloride (1.5 g) in water (10 mL) (suspension A). 4,5-Dichloro-2-fluoroaniline (5 g) is dissolved in a mixture of glacial acetic acid (30 mL) and concentrated hydrochloric acid (15 mL). The resulting solution is cooled to −5° C. on a bath of ice and salt. A solution of sodium nitrite (2.5 g) in water (10 mL) is then added dropwise with constant stirring. The resulting mixture is slowly added to suspension A and is stirred on an ice bath for 15 minutes. The mixture is then poured into a mixture of water (200 mL) and ether (200 mL). The ethereal phase is separated off and washed with water (100 mL). The organic phase is concentrated to dryness by distillation under reduced pressure and the residue is re-dissolved in dioxane (25 mL). The solution is poured slowly, whilst stirring, into a mixture of concentrated ammonia (25 mL) and water (10 mL) cooled on an ice bath. After 30 minutes, the solution is evaporated to dryness by distillation under reduced pressure and the residue obtained is dissolved in methanol. The methanolic solution is treated with absorbent carbon and filtered and the filtrate is evaporated to dryness. The residue is recrystallised from a methanol/water mixture.

reactant | sulphur dioxide | S(=O)=O | O2S
reactant | 4,5-Dichloro-2-fluoroaniline | 5 g | ClC1=CC(=C(N)C=C1Cl)F | C6H4Cl2FN
reactant | sodium nitrite | 2.5 g | N(=O)[O-].[Na+]
reactant | ether | 200 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 15 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4,5-dichloro-2-fluorobenzenesulphonamide | ClC1=CC(=C(C=C1Cl)S(=O)(=O)N)F | C6H4Cl2FNO2S
